US04826860
To a stirred solution of 74.6 g (0.5 mol) of benzylisothiocyanate in 500 mL toluene was added dropwise 46.6 g (0.5 mol) of aniline. The solution was refluxed 18 hours. After cooling, the reaction mixture was concentrated under reduced pressure. The residue was recrystallized from an appropriate solvent to yield N-phenyl-N'-benzylthiourea. Isothiocyanates which are not commercially available may be prepared from aliphatic or aryl primary amines by the following methods: Kurita and Iwakura, Org. Synth. 59, 195; Jochims, Chem. Ber. 101, 1746 (1968); or Castro, Pena, Santos, and Vega, J. Org. Chem. 49, 863 (1984).

reactant | benzylisothiocyanate | 0.5 mol, 74.6 g | C(C1=CC=CC=C1)N=C=S | C8H7NS
reactant | aniline | 0.5 mol, 46.6 g | NC1=CC=CC=C1 | C6H7N
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | N-phenyl-N'-benzylthiourea | C1(=CC=CC=C1)NC(=S)NCC1=CC=CC=C1 | C14H14N2S
